US04460770
A solution of 3.69 g of (trans-4-pentylcyclohexyl)methanol and 5.51 g of triphenylphosphine in 70 ml of methylene chloride at -30° C. was placed under argon gasification and treated portionwise within 15 minutes with 7.30 g of solid tetrabromomethane in such a manner that the internal temperature did not exceed -20° C. After completion of the addition, the cooling bath was removed and the mixture was stirred for a further 18 hours with gradual warming to room temperature. The mixture was then concentrated on a rotary evaporator and the resulting, semi-crystalline residue was triturated with 200 ml of warm hexane, filtered and the concentrated filtrate was chromatographed with hexane on a column of silica gel. There were obtained 4.79 g (97%) of trans-1-(bromomethyl)-4-pentylcyclohexane as a colourless liquid which was purified further by distillation; b.p. 82° C./0.08 mmHg.

reactant | (trans-4-pentylcyclohexyl)methanol | 3.69 g | C(CCCC)[C@@H]1CC[C@H](CC1)CO | C12H24O
reactant | triphenylphosphine | 5.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | BrC(Br)(Br)Br | CBr4
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | trans-1-(bromomethyl)-4-pentylcyclohexane | 4.79 g, 97% | BrC[C@@H]1CC[C@H](CC1)CCCCC | C12H23Br
